US07220760B2
A mixture of 4-chloroquinoline (10 g) and aniline (11.4 g) was warmed to 150° C. for 30 min. A solution of sodium hydroxide 1 N (200 ml) was added. After extraction with ethyl acetate (1 L), the organic layer was separated and dried over sodium sulfate. The solvent was removed to afford an amorphous materiel, which was crystallized in cyclohexane. Phenyl-quinolin-4-yl-amine (13.7 g) was obtained after filtration.

reactant | 4-chloroquinoline | 10 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | aniline | 11.4 g | NC1=CC=CC=C1 | C6H7N
solvent | sodium hydroxide | 1 N, 200 ml | [OH-].[Na+]
product | Phenyl-quinolin-4-yl-amine | 13.7 g | C1(=CC=CC=C1)NC1=CC=NC2=CC=CC=C12 | C15H12N2
